datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CC)CC>>CN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CC)[O-:10])CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([K])C(CCC)C(O)=C1[H]>>[O:10]([K])C(CCC)/C(O)=C([C:20](OCC)=[O:21])/[H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]C.[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(CC)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)C>>CN([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C1=CC=CC=C1)C>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)C.[Cl-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C(C)C(C)=C1C>>[O-:10]C(C)/C(C)=C([C:20]([H])=[O:21])/C 21=20;20,10=10"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH][H] 10=20;20,21=21"
"C1=CC=CC=C1[O:10][C:20]([O-:21])(O[H])OC1=CC=CC=C1>>[O:21]=[C:20](O[H])OC1=CC=CC=C1.[O-:10]C1=CC=CC=C1 21=20;20,10=10"
"[H][S:10]C(C)C([H])[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[O:10]([K])C(C)C(C)/C(C)=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C(C)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[O]C(CC)C(C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(CC)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C([O-:21])[H])CC)CC 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OC)OCC)CC>>[Li][O:21]CC.[C:20](=[O:10])(OC)OCC 10=20;20,21=21"
